US08461134B2
The mix of N-(3-bromo-4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-2,2,2-trifluoroacetamide (87 mg, 0.182 mmol), (E)-tributyl(2-ethoxyvinyl) stannane (71 mg, 0.196 mmol), dimethylamino ethanol (17.9 mg, 0.2 mmol) and Pd(dppf)2Cl2 in NMP (2 ml) was degassed and heated to 100° C. overnight. The crude product was purified by prep-HPLC to give (E)-N-(3-(2-ethoxyvinyl)-4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-2,2,2-trifluoroacetamide.

reactant | N-(3-bromo-4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-2,2,2-trifluoroacetamide | 0.182 mmol, 87 mg | BrC=1C=C(C=CC1S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O)NC(C(F)(F)F)=O | C15H11BBrF3N2O5S
reactant | (E)-tributyl(2-ethoxyvinyl) stannane | 0.196 mmol, 71 mg | C(CCC)[Sn](\C=C\OCC)(CCCC)CCCC
reactant | dimethylamino ethanol | 0.2 mmol, 17.9 mg | CN(C)CCO | C4H11NO
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
catalyst | Pd(dppf)2Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (E)-N-(3-(2-ethoxyvinyl)-4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-2,2,2-trifluoroacetamide | C(C)O/C=C/C=1C=C(C=CC1S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O)NC(C(F)(F)F)=O | C19H18BF3N2O6S
